US09376547B2
Photographs taken before and after adding calcium ion to a 0.05 mass % aqueous sodium surfactin solution are demonstrated as FIG. 1 for reference. As shown in FIG. 1(1), sodium surfactin was dissolved completely before addition of calcium ion. The white part in the upper part of FIG. 1(1) was composed of bubbles formed by sodium surfactin as a surfactant. On the one hand, as shown in FIG. 1(2), when 1 mL of a saturated aqueous calcium chloride solution was added to about 150 mL of a 0.05 mass % aqueous sodium surfactin solution, it was observed that the bubbles disappeared, and surfactin became insolubilized by calcium ion to form calcium surfactin and deposited in the lower part.

reactant | calcium chloride | 1 mL | [Cl-].[Ca+2].[Cl-]
reactant | sodium surfactin | [Na].CC(C)CCCCCCCCC[C@@H]1CC(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)O1)CC(C)C)CC(C)C)CC(=O)O)C(C)C)CC(C)C)CC(C)C)CCC(=O)O
reactant | surfactin | CC(C)CCCCCCCCC[C@@H]1CC(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)O1)CC(C)C)CC(C)C)CC(=O)O)C(C)C)CC(C)C)CC(C)C)CCC(=O)O | C53H93N7O13
product | calcium surfactin | [Ca].CC(C)CCCCCCCCC[C@@H]1CC(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)O1)CC(C)C)CC(C)C)CC(=O)O)C(C)C)CC(C)C)CC(C)C)CCC(=O)O | InChI=1S/C53H93N7O13.Ca/c1-30(2)20-18-16-14-13-15-17-19-21-36-28-43(61)54-37(22-23-44(62)63)47(66)55-38(24-31(3)4)48(67)57-40(26-33(7)8)51(70)60-46(35(11)12)52(71)58-41(29-45(64)65)50(69)56-39(25-32(5)6)49(68)59-42(27-34(9)10)53(72)73-36;/h30-42,46H,13-29H2,1-12H3,(H,54,61)(H,55,66)(H,56,69)(H,57,67)(H,58,71)(H,59,68)(H,60,70)(H,62,63)(H,64,65);/t36-,37+,38+,39-,40-,41+,42+,46+;/m1./s1
